US08309581B2
d) 1-Cyclohexylmethyl-2-[2-(4-methoxy-phenylethynyl)-phenyl]-1H-benzoimidazole
The title compound was prepared in analogy to Example 72, intermediate a, from 2-(2-bromo-phenyl)-1-cyclohexylmethyl-1H-benzoimidazole and 1-ethynyl-4-methoxy-benzene (CAS Reg. No. 768-60-5). Yellow sticky solid (24%). MS (Turbo Spray): m/z=421.4 (M+H).

reactant | 2-(2-bromo-phenyl)-1-cyclohexylmethyl-1H-benzoimidazole | BrC1=C(C=CC=C1)C1=NC2=C(N1CC1CCCCC1)C=CC=C2 | C20H21BrN2
reactant | 1-ethynyl-4-methoxy-benzene | C(#C)C1=CC=C(C=C1)OC | C9H8O
product | 1-Cyclohexylmethyl-2-[2-(4-methoxy-phenylethynyl)-phenyl]-1H-benzoimidazole | C1(CCCCC1)CN1C(=NC2=C1C=CC=C2)C2=C(C=CC=C2)C#CC2=CC=C(C=C2)OC | C29H28N2O
